US08138197B2
3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid
3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)-benzoic acid methyl ester (895 mg) was dissolved in a mixed methanol/THF solution (16 mL, 5/3), aqueous 1 M NaOH solution (6 mL) was added to it, and stirred at 50° C. for 5 hours. The reaction liquid was cooled to room temperature, and aqueous 1 M HCl solution (6 mL) was added to it, and the solvent was evaporated away under reduced pressure. The resulting solid was taken out through filtration, washed with water and ether, and dried under reduced pressure to obtain the title compound as a pale yellow solid.

reactant | 3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)-benzoic acid methyl ester | 895 mg | COC(C1=CC(=C(C(=C1)OCC)C=1C=NN(C1)C)OCC)=O | C16H20N2O4
reactant | HCl | 1 M, 6 mL | Cl | ClH
solvent | methanol THF | 16 mL | CO.C1CCOC1
solvent | NaOH | 1 M, 6 mL | [OH-].[Na+]
product | 3,5-Diethoxy-4-(1-methyl-1H-pyrazol-4-yl)benzoic acid | C(C)OC=1C=C(C(=O)O)C=C(C1C=1C=NN(C1)C)OCC | C15H18N2O4
